* C:\Users\Viktorio\Desktop\Github REPOS\harbor-measuring-device-SPRO3\Simulations\ESC_BMS\RPP\Rpp.asc
V1 Vin 0 -8.4
M1 Vin N001 Vout Vout PMOS
D1 N001 Vout D
R1 N001 0 27k
C1 Vout 0 100n
.model D D
.lib C:\Users\Viktorio\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Viktorio\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 1 0 0.01
.backanno
.end
